US07799917B2
3-(3′,5′-dibromophenyl)-2-propenal
3,5-dibromobenzaldehyde (16.1 g, 61.0 mmol) was added to a cold (ice-water bath) solution of tert-butoxide (13.0 g, 116 mmol), (1,3-dioxolan-2-ylmethyl)tri-n-butylphosphine bromide salt (4.5 M, 32 cm3, 144 mmol) in 400 cm3 of ether under argon. The mixture was stirred at 0-2° C. for 2 h. 1.0 M HCl(aq) (300 cm3) was added to the mixture. The reaction was gradually warmed to room temperature and stirred at room temperature for 21 h. The two layers were separated. The aqueous layer was extracted with ether (3×200 cm3). The organic layer and the ether extracts were combined, washed with brine (1×300 cm3) and dried over anhydrous magnesium sulfate. The solvents were completely removed to leave a yellow solid. The solid was purified by column chromatography of silica gel using ethyl acetate-light petroleum (40-60° C.) as eluent to give 3.36 g (19%) of A-1 as a colourless solid; δH (200 MHz; CDCl3) 6.68 (1 H, dd, J 7.4 & 16 Hz, vinylH), 7.33 (1 H, d, J 16 Hz, vinylH), 7.33 (2 H, m, ArH), 7.63 (1 H, m, ArH), and 9.72 (1 H, d, J7.6 Hz, CHO); m/z [CI(NH3)] 306, 308, 310 (MNH4+), and 288, 290, 292 (M+).

reactant | 3,5-dibromobenzaldehyde | 61.0 mmol, 16.1 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | tert-butoxide | 116 mmol, 13.0 g | CC(C)([O-])C
reactant | (1,3-dioxolan-2-ylmethyl)tri-n-butylphosphine bromide salt | 144 mmol, 4.5 M, 32 cm3 | [Br-].O1C(OCC1)CP(CCCC)(CCCC)CCCC
reactant | HCl | 1.0 M, 300 cm3 | Cl | ClH
solvent | ether | 400 cm3 | CCOCC | C4H10O
product | 3-(3′,5′-dibromophenyl)-2-propenal | BrC=1C=C(C=C(C1)Br)C=CC=O | C9H6Br2O
